US07495007B2
In a manner similar to the method described in example 190b, 3-bromo-4-fluorobenzaldehyde (4.6 g, 21 mmol) (Lancaster) was used as the starting material in place of 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde to react with 1,1,3,3,3-hexamethyldisilazane (4.36 mL, 21 mmol), n-butyllithium (2.5 M, 8.4 mL, 21 mmol), trimethylsilyl chloride (2.66 mL, 21 mmol), triethylamine (3.8 mL, 27.2 mmol) and acetyl chloride (1.94 mL, 27.2 mmol) to give crude 1-(3-bromo-4-fluorophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 3-bromo-4-fluorobenzaldehyde | 21 mmol, 4.6 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde | C(C)(C)(C)[Si](OCCOC1=C(C=O)C=C(C=C1)I)(C)C | C15H23IO3Si
reactant | 1,1,3,3,3-hexamethyldisilazane | 21 mmol, 4.36 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 21 mmol, 2.5 M, 8.4 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 21 mmol, 2.66 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 27.2 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 27.2 mmol, 1.94 mL | C(C)(=O)Cl | C2H3ClO
product | 1-(3-bromo-4-fluorophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=C(C=CC1F)C=NC(=C)O[Si](C)(C)C | C12H15BrFNOSi
